US09388183B2
To a suspension of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carbaldehyde oxime (G-3) (865 mg, 4.40 mmol, 1.0 eq) in DCM (20 mL), thionyl chloride (3.1 mL, 43.7 mmol, 10.0 eq) is added and the resulting mixture is stirred at RT overnight. The reaction mixture is concentrated in vacuo. The residue is suspended in water (60 mL) and saturated aqueous NaHCO3 is added to adjust the pH to 4. The solid is collected by filtration, rinsed with water and followed by ethyl acetate to afford the first batch of product. The filtrate is extracted with ethyl acetate (3×50 mL). The combined organic layers are washed with brine, dried over Na2SO4 and filtered. The filtrate is concentrated in vacuo and the residue is combined with the above-obtained solid. The product is re-crystallized in ethyl acetate/hexanes (v/v=1/1) and dried in vacuo to afford the product, 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (G-4).

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carbaldehyde oxime | 4.40 mmol, 865 mg, 1.0 eq | ClC=1C2=C(N=CN1)NC=C2C=NO | C7H5ClN4O
reactant | thionyl chloride | 43.7 mmol, 3.1 mL, 10.0 eq | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | ClC=1C2=C(N=CN1)NC=C2C#N | C7H3ClN4
